US05750520
4-Methyl-1-[N-(2-methyl-1,2,3,4-tetrahydroisoquinoline-7-sulphonyl)-3-cyano-(S)-phenylalanyl]-1,2,3,6-tetrahydropyridine-2(R)-carboxylic acid ethyl ester
Aqueous formaldehyde solution (37% w/v, 1.4 ml, 17.3 mmol) was added to a stirred solution of 4-methyl-1-[N-(1,2,3,4-tetrahydroisoquinoline-7-sulphonyl)-3-cyano-(S)-phenylalanyl]-1,2,3,6-tetrahydropyridine-2(R)-carboxylic acid ethyl ester (Preparation 45; 2.26 g, 4.2 mmol) in dichloromethane (30 ml). After 0.75 hour, sodium triacetoxyborohydride (1.34 g, 6.32 mmol) was added and stirring continued for 4 hours. The reaction mixture was then washed successively with saturated aqueous sodium bicarbonate solution and saturated brine, dried (MgSO4) and evaporated under reduced pressure, then the residue purified by chromatography on silica gel, using ethyl acetate: diethylamine (98:2) as eluent, to provide the title compound (2.15 g) as a foam. [α]D 25 +9° (c=0.1, CH3 OH) . Found: C,62.81; H,6.28; N,9.53. C29H34N4O5S; 0.30 H2O required C,62.63; H,6.27; N,10.07%.

reactant | formaldehyde | 17.3 mmol, 1.4 ml | C=O | CH2O
reactant | 4-methyl-1-[N-(1,2,3,4-tetrahydroisoquinoline-7-sulphonyl)-3-cyano-(S)-phenylalanyl]-1,2,3,6-tetrahydropyridine-2(R)-carboxylic acid ethyl ester | 4.2 mmol, 2.26 g | C(C)OC(=O)[C@@H]1N(CC=C(C1)C)C([C@@H](NS(=O)(=O)C1=CC=C2CCNCC2=C1)CC1=CC(=CC=C1)C#N)=O | C28H32N4O5S
reactant | sodium triacetoxyborohydride | 6.32 mmol, 1.34 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 4-Methyl-1-[N-(2-methyl-1,2,3,4-tetrahydroisoquinoline-7-sulphonyl)-3-cyano-(S)-phenylalanyl]-1,2,3,6-tetrahydropyridine-2(R)-carboxylic acid ethyl ester | 2.15 g | C(C)OC(=O)[C@@H]1N(CC=C(C1)C)C([C@@H](NS(=O)(=O)C1=CC=C2CCN(CC2=C1)C)CC1=CC(=CC=C1)C#N)=O | C29H34N4O5S
